US05594021
N-(4-bromo-3-methyl-5-isoxazolyl)-2-(4-methyl-trans-styryl)thiophene-3-sulfonamide was prepared in the same manner as described in Example 2 by reaction of 2-(4-methyl-trans-styryl)thiophene-3-sulfonyl chloride with 5-amino-4-bromo-3-methylisoxazole. The crude product was purified by HPLC followed by crystallization resulting in a 34% yield, m.p. 101°-105° C.

reactant | 2-(4-methyl-trans-styryl)thiophene-3-sulfonyl chloride | CC1=CC=C(/C=C/C=2SC=CC2S(=O)(=O)Cl)C=C1 | C13H11ClO2S2
reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
product | N-(4-bromo-3-methyl-5-isoxazolyl)-2-(4-methyl-trans-styryl)thiophene-3-sulfonamide | 34% yield | BrC=1C(=NOC1NS(=O)(=O)C1=C(SC=C1)\C=C\C1=CC=C(C=C1)C)C | C17H15BrN2O3S2
